2105-02-16 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2105-2-15**] 09:57 PM
   - hepatology saw patient; recommendations for transplant surgery eval
   - transplant surgery saw patient- recommended monitoring but doing
   better
   Allergies:
   Codeine
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-16**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 105 (104 - 113) bpm
   BP: 117/61(72) {111/59(71) - 163/72(96)} mmHg
   RR: 20 (18 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                     31 mL
                                                                    348 mL
   PO:
             TF:
   IVF:
                                                                     31 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                    240 mL
   Urine:
                                                                     95 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 500) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 44
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/26/360/16/-7
   Ve: 7.2 L/min
   PaO2 / FiO2: 720
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Rash: petechial on right dorsal hand, Jaundice
   Neurologic: Responds to: voice; following commands. + asterixis
   Labs / Radiology
   99 K/uL
   12.8 g/dL
   116 mg/dL
   1.8 mg/dL
   16 mEq/L
   3.9 mEq/L
   31 mg/dL
   100 mEq/L
   134 mEq/L
   37.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2105-2-15**]  10:16 PM
                             [**2105-2-15**]  11:14 PM
                             [**2105-2-16**]  04:46 AM
   WBC
   12.5
   12.4
   Hct
   37.9
   37.4
   Plt
   98
   99
   Cr
   1.6
   1.8
   TCO2
   16
   Glucose
   155
   116
   Other labs: PT / PTT / INR:35.8/34.2/3.7, ALT / AST:8568/8518, Alk Phos
   / T Bili:135/4.4, Differential-Neuts:93.5 %, Band:0.0 %, Lymph:4.6 %,
   Mono:1.1 %, Eos:0.3 %, Fibrinogen:202 mg/dL, Lactic Acid:4.9 mmol/L,
   Albumin:3.4 g/dL, LDH:8510 IU/L, Ca++:7.4 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   40 yo female with h/o depression admitted to OSH with suidical ideation
   and worsening depression also with complaints of abdominal pain, N/V
   found to have acute liver injury, s/p intubation for worsening
   somnolence transferred to [**Hospital1 5**] for further care of her transaminitis
   #  Acute Liver Injury: Certainly toxic ingestion (acetaminophen) can
   present this way, and the low level detected at the OSH may have been
   due to the fact that she had ingested many hours previously and had
   started to clear her levels.  Other possibilites include acute viral
   hepatitis (hep A) or hep B (less likely).  Also, possibly secondary to
   recent doxycycline use (rare). Also possibilites include portal vein
   thrombosis.  no evidence of biliary dilation on CT or US from OSH.
   Less likely causes include hemochromatosis, though ferritin is markedly
   elevated.
   - trend LFTs and coags- coags now peaked and heading downwards again
   - complete NAC infusion
   - f/u hepatitis A and B serologies
   - consider repeat abdominal US to eval for portal vein thrombosis
   - f/u transplant surgery eval
   - f/u liver reccs
   - f/u OSH ceruloplasmin
   # Altered Mental Status/Somnolence: improving this AM; following
   commands.  Intubated for somnolence but appears to be doing better
   today and likely can be extubated
   - stop sedation; attempt extubation
   # Hypercarbic respiratory failure: as above; will attempt extubation
   today
   # Coagulopathy: markedly elevated INR, PTT, with thrombocytopenia.
   Likely etiology is acute liver injury. Thrombocytopenia may be
   secondary to chronic liver disease, though not documented previously.
   Also, DIC can cause similar picture as well.
   - trend coags- now improving likely as her [**Doctor Last Name 76**] improves
   - avoid FFP unless actively bleeding
   - no e/o of DIC on labs
   - infectious workup pending
   # Acute Kidney Injury: creat initially 2.1, down to 1.1 this AM, but
   now 1.8.  Possible etiologies include prerenal in the setting of toxic
   ingestions.  Also, possible acetaminophen toxicity.  HRS is also
   possible given her acute liver injury.
   - f/u UA and urine culture
   - check urine lytes
   - check prot/creat ratio
   - consider  fluid challenge or albumin challenge
   - if rapidly worsening, consider renal consult
   - no current indication for HD
   # Metabolic acidosis with concomitant respiratory acidosis: improved in
   the setting of ventilation, now improving metabolic acidosis as well.
   No e/o osmolar gap
   - monitor Q6H lytes
   # Depression: on seroquel as outpatient.  Will hold off for now
   - SW consult to help with family coping
   ICU Care
   Nutrition: if extubated today, can start regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-2-15**] 11:06 PM
   22 Gauge - [**2105-2-15**] 11:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: husband [**Name (NI) 362**] [**Telephone/Fax (1) 10840**]
   [**Name2 (NI) 156**] status: Full code
   Disposition:ICU

2105-02-16 09:12:00 Physician Attending Progress Note
Chief Complaint:  Fuminant hepatic failure
   HPI:  40 yo woman with history of depression admitted [**2104-2-15**] to [**Hospital 466**]
   hospital with auditory hallucinations and suicidal thoughts, found to
   have fulminant hepatic failure of unclear etiology.  CT head/abd pelvis
   unremarkable with only fatty infiltration of liver and RUQ US without
   biliary dilitation.  Intubated for worsening mental status.  Tylenol
   level 6.7 initially, placed empirically on NAC.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 Propofol discontinued overnight, following simple commands this
   morning.
 FiO2 weaned to 0.5, patient switched to pressure support 10/5/0.5
   this morning
 RUQ ultrasound in progress this morning
   Allergies:
   Codeine
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   NAC
   Other ICU medications:
   Famotidine (Pepcid) - [**2105-2-16**] 08:00 AM
   Fentanyl - [**2105-2-16**] 08:30 AM
   Other medications:
   colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-16**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 114 (104 - 114) bpm
   BP: 121/51(68) {111/51(68) - 163/72(96)} mmHg
   RR: 24 (18 - 24) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                     31 mL
                                                                    431 mL
   PO:
             TF:
   IVF:
                                                                     31 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                    335 mL
   Urine:
                                                                     95 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 389 (389 - 389) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 44
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 23 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/26/360/16/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 720
   Physical Examination
   General Appearance: alert and following simple commands
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   +BS.  Slightly distended.  Diffusely tender to palpation
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.8 g/dL
   99 K/uL
   116 mg/dL
   1.8 mg/dL
   16 mEq/L
   3.9 mEq/L
   31 mg/dL
   100 mEq/L
   134 mEq/L
   37.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2105-2-15**]  10:16 PM
                             [**2105-2-15**]  11:14 PM
                             [**2105-2-16**]  04:46 AM
   WBC
   12.5
   12.4
   Hct
   37.9
   37.4
   Plt
   98
   99
   Cr
   1.6
   1.8
   TCO2
   16
   Glucose
   155
   116
   Other labs: PT / PTT / INR:35.8/34.2/3.7, ALT / AST:8568/8518, Alk Phos
   / T Bili:135/4.4, Differential-Neuts:93.5 %, Band:0.0 %, Lymph:4.6 %,
   Mono:1.1 %, Eos:0.3 %, Fibrinogen:202 mg/dL, Lactic Acid:4.9 mmol/L,
   Albumin:3.4 g/dL, LDH:8510 IU/L, Ca++:7.4 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.2 mg/dL
   UA with small leukocyte esterase, >50 RBC with granular casts
   blood and urine cultures pending
   hepatitis serologies pending
   Assessment and Plan
   Fulminant hepatic failure
   -hepatology following
   -toxic ingestion ?tylenol ?doxycycline, receiving NAC infusion
   -RUQ US to rule out portal vein thrombosis
   -checking LFTs, coags, lactate q4hr
 optimal to place a-line
   -holding vitamin K unless evidence of bleeding
   -encephalopathy improving without use of lactulose, will start
   lactulose
   -transplant evaluation: [**Last Name (LF) **], [**First Name3 (LF) 124**] need HIV test, psychiatry consult,
   transplant social work consult
   Depression
   -holding on psychiatric medications
   Hypercarbic respiratory failure
   -Assess for extubation this morning as mental status markedly improved
   Dirty UA
   -will followup urine culture
   Acute kidney injury
   -Cr peaked at 2.1 but not oliguric
   -check urine electrolytes, if urine Na low will do 5% albumin challenge
   to evaluate for hepatorenal syndrome vs pre-renal etiology
   For remainder of plan, please see resident note.
   ICU Care
   Nutrition: npo for possible extubation today
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-2-15**] 11:06 PM
   22 Gauge - [**2105-2-15**] 11:06 PM
   Prophylaxis:
   DVT: venodynes, coagulopathy currently
   Stress ulcer: on famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition : ICU today
   Total time spent: Patient is critically ill.  Time spent on care - 40
   minutes

2105-02-17 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2105-2-16**] 08:30 AM
   abdominal.
 TRANSTHORACIC ECHO - At [**2105-2-16**] 10:07 AM
 INVASIVE VENTILATION - STOP [**2105-2-16**] 11:00 AM
 PICC LINE - START [**2105-2-16**] 02:49 PM
 ENDOSCOPY - At [**2105-2-16**] 04:20 PM
   -- Hepatology and transplant encouraged by patients improving numbers,
   likely not going to be transplanted.
   -- Had an episode of 250cc bloody emesis.  Blood pressures stable.
   Hepatology perfomred EGD with old plood in the atrum, and mild
   gastritis, but no active bleeding or varricies.  Started on PPI [**Hospital1 **] IV
   and stable hct on q4h labs.
   -- Will continued NAC until INR < 2.0.  Gave Vit K.
   -- Hepatology wanted course of cipro.
   -- TTE w/ mild pHTN
   -- Urine Lytes with FeNA of 0.3.  ATN for tylenol vs. hepatorenal most
   likely with poor response to flood challenge of 1L.
   -- PICC line placed
   -- pt extubated
   -- seen by psych, rec 1:1, will continue to follow, pt denying overdose
   Allergies:
   Codeine
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2105-2-16**] 03:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2105-2-16**] 08:00 AM
   Fentanyl - [**2105-2-16**] 08:30 AM
   Pantoprazole (Protonix) - [**2105-2-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 104 (99 - 114) bpm
   BP: 137/64(81) {114/51(28) - 138/73(83)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.6 kg (admission): 85 kg
             Total In:
                                                                  2,435 mL
                                                                    569 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  2,235 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  1,067 mL
                                                                    277 mL
   Urine:
                                                                    817 mL
                                                                    277 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  1,368 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 762 (389 - 762) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///18/
   Ve: 8.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   85 K/uL
   11.0 g/dL
   125 mg/dL
   2.9 mg/dL
   18 mEq/L
   3.2 mEq/L
   39 mg/dL
   104 mEq/L
   137 mEq/L
   31.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2105-2-15**]  10:16 PM
                             [**2105-2-15**]  11:14 PM
                             [**2105-2-16**]  04:46 AM
                             [**2105-2-16**]  10:54 AM
                             [**2105-2-16**]  04:08 PM
                             [**2105-2-16**]  08:04 PM
                             [**2105-2-17**]  01:35 AM
                             [**2105-2-17**]  04:39 AM
   WBC
   12.5
   12.4
   11.2
   10.2
   9.9
   Hct
   37.9
   37.4
   34.3
   33.4
   32.0
   31.4
   Plt
   98
   99
   88
   83
   85
   Cr
   1.6
   1.8
   2.0
   2.3
   2.4
   2.7
   2.9
   TCO2
   16
   Glucose
   155
   116
   118
   138
   121
   122
   125
   Other labs: PT / PTT / INR:24.3/27.1/2.3, ALT / AST:5688/3084, Alk Phos
   / T Bili:157/4.9, Differential-Neuts:93.5 %, Band:0.0 %, Lymph:4.6 %,
   Mono:1.1 %, Eos:0.3 %, Fibrinogen:202 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.4 g/dL, LDH:1121 IU/L, Ca++:7.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   40 yo female with h/o depression admitted to OSH with suidical ideation
   and worsening depression also with complaints of abdominal pain, N/V
   found to have acute liver injury, s/p intubation for worsening
   somnolence transferred to [**Hospital1 5**] for further care of her transaminitis
   #  Acute Liver Injury: most likely acetaminophen toxicity, but still
   not entirely clear. Viral hepatitis serologies still pending.  Overall,
   liver function seems to be improving.  Abdominal US with normal flow,
   no e/o thrombosis.
   - cont to trend labs; INR is moving downwards and improvement in LFTs
   is encouraging
   - will cont NAC infusion until INR <1.5
   - f/u hepatitis serologies
   - f/u transplant surgery eval- likely may not need a liver transplant
   at this time; will cont to monitor
   - f/u liver recs
   - f/u CMV/EBV serologies
   # Acute Kidney Injury: creat continues to rise; now up to 2.9.  Most
   likely etiology is ATN vs HRS.  Fluid challenge did not improve renal
   function.  FENA of 0.3 makes ATN most likely; and urine Na 21 makes HRS
   slightly less likely.  Other possibilites include acetaminophen
   toxicity.
   - urine cx NGTD
   - prot/creat is 1.3
   - consider renal consult
   - no current indication for HD
   # Altered Mental Status/Somnolence: continues to improve; extubated
   yesterday.  Following commands.
   - avoid neuroleptic medications
   # Coagulopathy: markedly elevated INR, PTT, with thrombocytopenia.
   Likely etiology is acute liver injury. Thrombocytopenia may be
   secondary to chronic liver disease, though not documented previously.
   Also, DIC can cause similar picture as well.
   - trend coags- now improving likely as her [**Doctor Last Name 76**] improves
   - avoid FFP unless actively bleeding
   - no e/o of DIC on labs
   - infectious workup pending
   # Metabolic acidosis: initially with concomitant respiratory acidosis
   but now improved.  Off mechanical ventilation.  Anion gap also
   improving.  Lactic acidosis most likely cause, and as lactate improved,
   acidosis has improved as well
   # Depression: on seroquel as outpatient.  Will hold off for now
   - SW consult to help with family coping
   - f/u tsh, vb12,  rpr
 LIVER FUNCTION ABNORMALITIES
 DEPRESSION
   ICU Care
   Nutrition: start clears- advance as tolerated
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-2-15**] 11:06 PM
   22 Gauge - [**2105-2-15**] 11:06 PM
   PICC Line - [**2105-2-16**] 02:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  husband [**Name (NI) 362**] [**Telephone/Fax (1) 10840**]
   [**Name2 (NI) 156**] status: Full code
   Disposition:ICU

2105-02-17 10:21:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: fulminant hepatic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2105-2-16**] 08:30 AM
   abdominal.
 TRANSTHORACIC ECHO - At [**2105-2-16**] 10:07 AM
 Extubated
 PICC LINE - START [**2105-2-16**] 02:49 PM
 ENDOSCOPY -EGD after hematemesis
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2105-2-16**] 03:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-2-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2105-2-17**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 99 (98 - 110) bpm
   BP: 124/71(82) {114/57(28) - 138/73(85)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 85 kg
             Total In:
                                                                  2,435 mL
                                                                    721 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  2,235 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  1,067 mL
                                                                    592 mL
   Urine:
                                                                    817 mL
                                                                    392 mL
   NG:
                                                                    250 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,368 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 762 (762 - 762) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Eyes / Conjunctiva: scleral hemorrhage Rt
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, place, year, Movement: Not assessed, Tone: Not
   assessed, asterixis
   Labs / Radiology
   11.0 g/dL
   85 K/uL
   125 mg/dL
   2.9 mg/dL
   18 mEq/L
   3.2 mEq/L
   39 mg/dL
   104 mEq/L
   137 mEq/L
   31.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2105-2-15**]  10:16 PM
                             [**2105-2-15**]  11:14 PM
                             [**2105-2-16**]  04:46 AM
                             [**2105-2-16**]  10:54 AM
                             [**2105-2-16**]  04:08 PM
                             [**2105-2-16**]  08:04 PM
                             [**2105-2-17**]  01:35 AM
                             [**2105-2-17**]  04:39 AM
   WBC
   12.5
   12.4
   11.2
   10.2
   9.9
   Hct
   37.9
   37.4
   34.3
   33.4
   32.0
   31.4
   Plt
   98
   99
   88
   83
   85
   Cr
   1.6
   1.8
   2.0
   2.3
   2.4
   2.7
   2.9
   TCO2
   16
   Glucose
   155
   116
   118
   138
   121
   122
   125
   Other labs: PT / PTT / INR:24.3/27.1/2.3, ALT / AST:5688/3084, Alk Phos
   / T Bili:157/4.9, Differential-Neuts:93.5 %, Band:0.0 %, Lymph:4.6 %,
   Mono:1.1 %, Eos:0.3 %, Fibrinogen:202 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.4 g/dL, LDH:1121 IU/L, Ca++:7.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   Fulminant hepatic failure
   -hepatology following
   -Transaminases now trending downward
   -TBili appears to have peaked
   -toxic ingestion ?tylenol ?doxycycline, receiving NAC infusion
   -RUQ US to rule out portal vein thrombosis
   -encephalopathy improving
   -transplant evaluation underway
   Depression
   -holding on psychiatric medications
   Respiratory failure
   -Successfully extubated yesterday
   Dirty UA
   -will followup urine culture
   Acute kidney injury
   -Cr increasing - 2.9
   -ATN vs. HRS - suspect former more likely
   -renal consult
   -examine urine sediment
   For remainder of plan, please see resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-2-15**] 11:06 PM
   22 Gauge - [**2105-2-15**] 11:06 PM
   PICC Line - [**2105-2-16**] 02:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2105-02-18 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - renal:  muddy brown casts, intravascular volume down so gave 500cc
   bolus and maintenance fluids
   - mom called ([**Name (NI) 107**] [**Name (NI) 10888**] [**Telephone/Fax (1) 10889**]): husband has been
   misrepresenting the events. ms. [**Known lastname 10890**] wrote a suicide note and sent an
   email to her ex-husband on the day she was found down by her husband
   stating that she would OD on tylenol. husband destroyed the suicide
   note,  hid evidence.
   - [**Doctor First Name 91**]: no transplant
   Allergies:
   Codeine
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2105-2-17**] 05:48 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2105-2-17**] 08:00 AM
   Pantoprazole (Protonix) - [**2105-2-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-2-18**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 97 (96 - 107) bpm
   BP: 127/61(75) {118/58(72) - 137/85(96)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 85 kg
             Total In:
                                                                  3,424 mL
                                                                  2,022 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,464 mL
                                                                  1,452 mL
   Blood products:
   Total out:
                                                                  1,407 mL
                                                                    515 mL
   Urine:
                                                                  1,177 mL
                                                                    505 mL
   NG:
                                                                    230 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  1,507 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   Gen: WDWN obese female, NAD, in bed, somnolent
   HEENT: scleral injection, PEERL.  NGT in place
   CV: RRR
   Lungs: crackles R>L
   Abd: obese, soft, NT.
   Ext: 1+ edema bilaterally
   Neuro: A/O x 2; + asterexis
   Labs / Radiology
   100 K/uL
   10.2 g/dL
   125 mg/dL
   3.3 mg/dL
   15 mEq/L
   3.2 mEq/L
   40 mg/dL
   106 mEq/L
   136 mEq/L
   28.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2105-2-16**]  04:46 AM
                             [**2105-2-16**]  10:54 AM
                             [**2105-2-16**]  04:08 PM
                             [**2105-2-16**]  08:04 PM
                             [**2105-2-17**]  01:35 AM
                             [**2105-2-17**]  04:39 AM
                             [**2105-2-17**]  11:27 AM
                             [**2105-2-17**]  09:03 PM
                             [**2105-2-18**]  12:47 AM
                             [**2105-2-18**]  04:18 AM
   WBC
   12.4
   11.2
   10.2
   9.9
   8.1
   7.5
   7.7
   7.4
   Hct
   37.4
   34.3
   33.4
   32.0
   31.4
   31.7
   30.4
   29.0
   28.7
   Plt
   99
   88
   83
   85
   96
   107
   103
   100
   Cr
   1.8
   2.0
   2.3
   2.4
   2.7
   2.9
   3.2
   3.2
   3.2
   3.3
   Glucose
   116
   118
   138
   121
   122
   125
   117
   103
   281
   125
   Other labs: PT / PTT / INR:19.9/27.0/1.8, ALT / AST:3593/1228, Alk Phos
   / T Bili:173/6.3, Differential-Neuts:93.5 %, Band:0.0 %, Lymph:4.6 %,
   Mono:1.1 %, Eos:0.3 %, Fibrinogen:202 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.4 g/dL, LDH:1121 IU/L, Ca++:7.3 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.7 mg/dL
   Imaging: [**2105-2-17**] CXR:
   FINDINGS: Right PICC is more difficult to visualize than on the
   previous
   study due to removal of the radiodense guide wire. The catheter can be
   identified to the level of the mid superior vena cava, but the tip is
   not
   confidently visualized. With this in mind, standard PA and lateral
   chest
   radiographs within the department may be helpful for optimal
   visualization.
   Cardiomediastinal contours are unchanged. Slight improvement in degree
   of left basilar atelectasis with otherwise no relevant change since
   recent study.
   Microbiology: [**2105-2-16**]
   CMV IgG ANTIBODY (Final [**2105-2-17**]):
         POSITIVE FOR CMV IgG ANTIBODY BY EIA.
         55 AU/ML.
         Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml.
      CMV IgM ANTIBODY (Final [**2105-2-17**]):
         NEGATIVE FOR CMV IgM ANTIBODY BY EIA.
         INTERPRETATION:  INFECTION AT UNDETERMINED TIME.
   RPR- pending
   EBV- pending
   Urine Culture- no growth
   Assessment and Plan
   40 yo female with h/o depression admitted to OSH with suidical ideation
   and worsening depression also with complaints of abdominal pain, N/V
   found to have acute liver injury, s/p intubation for worsening
   somnolence transferred to [**Hospital1 5**] for further care of her transaminitis
   #  Acute Liver Injury: most likely acetaminophen toxicity, but still
   not entirely clear. Viral hepatitis serologies still pending.  Overall,
   liver function seems to be improving.  Abdominal US with normal flow,
   no e/o thrombosis.
   - cont to trend labs; INR is moving downwards and improvement in LFTs
   is encouraging
   - will cont NAC infusion until INR <1.5
   - f/u hepatitis serologies
   - f/u transplant surgery eval- likely may not need a liver transplant
   at this time; will cont to monitor
   - f/u liver recs
   - f/u CMV/EBV serologies
   # Acute Kidney Injury: creat continues to rise; now up to 2.9.  Most
   likely etiology is ATN vs HRS.  Fluid challenge did not improve renal
   function.  FENA of 0.3 makes ATN most likely; and urine Na 21 makes HRS
   slightly less likely.  Other possibilites include acetaminophen
   toxicity.
   - urine cx NGTD
   - prot/creat is 1.3
   - consider renal consult
   - no current indication for HD
   # Altered Mental Status/Somnolence: continues to improve; extubated
   yesterday.  Following commands.
   - avoid neuroleptic medications
   # Coagulopathy: markedly elevated INR, PTT, with thrombocytopenia.
   Likely etiology is acute liver injury. Thrombocytopenia may be
   secondary to chronic liver disease, though not documented previously.
   Also, DIC can cause similar picture as well.
   - trend coags- now improving likely as her [**Doctor Last Name 76**] improves
   - avoid FFP unless actively bleeding
   - no e/o of DIC on labs
   - infectious workup pending
   # Metabolic acidosis: initially with concomitant respiratory acidosis
   but now improved.  Off mechanical ventilation.  Anion gap also
   improving.  Lactic acidosis most likely cause, and as lactate improved,
   acidosis has improved as well
   # Depression: on seroquel as outpatient.  Will hold off for now
   - SW consult to help with family coping
   - f/u tsh, vb12,  rpr
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 LIVER FUNCTION ABNORMALITIES
 DEPRESSION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-2-15**] 11:06 PM
   22 Gauge - [**2105-2-15**] 11:06 PM
   PICC Line - [**2105-2-16**] 02:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2105-02-18 11:57:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: acute liver injury presumed due to tylenol ingestion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Mother called with additional info strengthening case for intentional
   Tylenol injestion / suicide attempt
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2105-2-17**] 05:48 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-2-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2105-2-18**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 101 (94 - 107) bpm
   BP: 124/67(81) {118/58(72) - 137/85(96)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.6 kg (admission): 85 kg
             Total In:
                                                                  3,424 mL
                                                                  2,672 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,464 mL
                                                                  1,982 mL
   Blood products:
   Total out:
                                                                  1,407 mL
                                                                    885 mL
   Urine:
                                                                  1,177 mL
                                                                    865 mL
   NG:
                                                                    230 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  1,787 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): self, place,
   year, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   100 K/uL
   125 mg/dL
   3.3 mg/dL
   15 mEq/L
   3.2 mEq/L
   40 mg/dL
   106 mEq/L
   136 mEq/L
   28.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2105-2-16**]  04:46 AM
                             [**2105-2-16**]  10:54 AM
                             [**2105-2-16**]  04:08 PM
                             [**2105-2-16**]  08:04 PM
                             [**2105-2-17**]  01:35 AM
                             [**2105-2-17**]  04:39 AM
                             [**2105-2-17**]  11:27 AM
                             [**2105-2-17**]  09:03 PM
                             [**2105-2-18**]  12:47 AM
                             [**2105-2-18**]  04:18 AM
   WBC
   12.4
   11.2
   10.2
   9.9
   8.1
   7.5
   7.7
   7.4
   Hct
   37.4
   34.3
   33.4
   32.0
   31.4
   31.7
   30.4
   29.0
   28.7
   Plt
   99
   88
   83
   85
   96
   107
   103
   100
   Cr
   1.8
   2.0
   2.3
   2.4
   2.7
   2.9
   3.2
   3.2
   3.2
   3.3
   Glucose
   116
   118
   138
   121
   122
   125
   117
   103
   281
   125
   Other labs: PT / PTT / INR:19.9/27.0/1.8, ALT / AST:3593/1228, Alk Phos
   / T Bili:173/6.3, Differential-Neuts:93.5 %, Band:0.0 %, Lymph:4.6 %,
   Mono:1.1 %, Eos:0.3 %, Fibrinogen:202 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.4 g/dL, LDH:1121 IU/L, Ca++:7.3 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   Acute liver injury
   -toxic ingestion presumed due to tylenol overdose
   -hepatology following
   -Transaminases & TBili trending downward
   -d/w liver service re: d/c NAC?
   -RUQ US ruled out portal vein thrombosis
   -encephalopathy improving though remains somnolent - cont lactulose
   -transplant evaluation - halted secondary to improvement in liver
   function
   Depression
   -holding on psychiatric medications
   Respiratory failure
   -Successfully extubated.  Doing well
   Encephalopathy
   -still very somnolent though better than yesterday
   -cont lactulose
   Acute kidney injury
   -Cr increasing - 3.3 though rate of rise slowing so appears to be
   peaking
   -ATN vs. HRS - suspect former more likely
   -appreciate renal consult -- failure most c/w ATN based on sediment,
   data, history
   For remainder of plan, please see resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2105-2-15**] 11:06 PM
   PICC Line - [**2105-2-16**] 02:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: